US08431607B2
ethyl 2-(((4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl)-2H-tetrazole-5-carboxylate
A small reaction tube fitted with a screw cap is charged with ((4S,5R)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate (50 mg, 0.12 mmol) and DMF (1 mL). Ethyl 1H-tetrazole-5-carboxylate, sodium salt (39 mg, 0.24 mmol) is added and the mixture is heated to 70° C. overnight. The cooled reaction is quenched with water, extracted with EtOAc, combined organics are washed with brine, dried over MgSO4, filtered, concentrated, and purified by flash chromatography (12 g Redisep cartridge, 30-50% EtOAc/hexanes) to give the title compound. 1H NMR (acetone-d6, 400 MHz) δ 7.53-7.43 (m, 2H), 7.34-7.28 (m, 3H), 7.10-7.08 (m, 1H), 7.06-7.00 (m, 2H), 6.92-6.90 (m, 1H), 5.67 (d, J=5.3 Hz, 1H), 5.52 (dd, J=(ddd, J=14.6, 6.5 Hz, 1H), 5.47-5.41 (m, 1H), 5.11-4.99 (m, 1H), 4.46-4.41 (m, 2H), 3.76 (s, 3H), 1.39-1.35 (m, 3H); HPLC-MS calculated C21H20ClN5O5 (M+H+) 458.1, found 458.1.

reactant | ((4S,5R)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate | 0.12 mmol, 50 mg | CS(=O)(=O)OC[C@H]1[C@@H](N(C(O1)=O)C1=CC=C(C=C1)Cl)C1=CC(=CC=C1)OC | C18H18ClNO6S
reactant | Ethyl 1H-tetrazole-5-carboxylate | N1N=NN=C1C(=O)OCC | C4H6N4O2
reactant | sodium | 0.24 mmol, 39 mg | [Na] | Na
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(((4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl)-2H-tetrazole-5-carboxylate | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CN1N=C(N=N1)C(=O)OCC)=O | C21H20ClN5O5
